US07265120B2
A suspension of 2-ethyl-6-{5-[(4-methoxybenzyl)amino]-3-phenyl-2-pyrazinyl}-3(2H)-pyridazinone (500 mg) in a mixture of conc. HCl (1.5 ml) and toluene (0.5 ml) was refluxed for 4 hours. After removal of an organic layer, an aqueous layer was adjusted to pH 4 with 6N aq. NaOH under ice-cooling. The precipitate was purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (20:80 v/v) to give 6-(5-amino-3-phenyl-2-pyrazinyl)-2-ethyl-3(2H)-pyridazinone (213 mg).

reactant | 2-ethyl-6-{5-[(4-methoxybenzyl)amino]-3-phenyl-2-pyrazinyl}-3(2H)-pyridazinone | 500 mg | C(C)N1N=C(C=CC1=O)C1=NC=C(N=C1C1=CC=CC=C1)NCC1=CC=C(C=C1)OC | C24H23N5O2
reactant | HCl | 1.5 ml | Cl | ClH
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(5-amino-3-phenyl-2-pyrazinyl)-2-ethyl-3(2H)-pyridazinone | 213 mg | NC=1N=C(C(=NC1)C=1C=CC(N(N1)CC)=O)C1=CC=CC=C1 | C16H15N5O
